US09023847B2
62. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-fluoro-benzylamino)-ethyl]-amide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]-amide using 4-fluorobenzaldehyde instead of 4-methoxy benzaldehyde. LCMS (ESI) 410 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.52 (1H, br. s.) 10.25 (1H, s) 7.99-8.07 (2H, m) 7.77 (1H, d, J=5.42 Hz) 7.46 (1H, d, J=5.42 Hz) 7.31 (3H, dt, J=5.72, 2.82 Hz) 7.06 (2H, t, J=8.91 Hz) 6.79 (1H, d, J=5.42 Hz) 6.43 (1H, dd, J=3.47, 1.95 Hz) 3.65 (2H, s) 3.34 (2H, d, J=5.86 Hz) 2.62 (2H, t, J=6.49 Hz)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]-amide | COC1=CC=C(CNCCNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=C1 | C22H23N5O2S
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-fluoro-benzylamino)-ethyl]-amide | FC1=CC=C(CNCCNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=C1 | C21H20FN5OS
